US07122545B2
0.08 g of 1H-Imidazole-2-carbothioic acid (2-methoxy-5-morpholin-4-yl-phenyl)-amide (0.25 mmol) were taken up in water (2.0 ml) and treated with 0.056 g KOH (1.0 mmol) and 0.331 g of potassium hexacyano ferrate (1.0 mmol) at reflux for 1 h. After cooling to ambient temperature water (10 ml) was added and the mixture was filtered. The residue on the filter was dried in vacuo at 40° C. One obtained 0.037 g of 2-(1H-imidazol-2-yl)-4-methoxy-7-morpholin-4-yl-benzothiazole (47%) as a yellow solid; M.p.: 228–230° C.

reactant | 1H-Imidazole-2-carbothioic acid (2-methoxy-5-morpholin-4-yl-phenyl)-amide | 0.25 mmol, 0.08 g | COC1=C(C=C(C=C1)N1CCOCC1)NC(=S)C=1NC=CN1 | C15H18N4O2S
reactant | KOH | 1.0 mmol, 0.056 g | [OH-].[K+]
solvent | water | 2.0 ml | O | H2O
catalyst | potassium hexacyano ferrate | 1.0 mmol, 0.331 g | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[K+].[K+].[K+].[K+].[Fe+6]
solvent | water | 10 ml | O | H2O
product | 2-(1H-imidazol-2-yl)-4-methoxy-7-morpholin-4-yl-benzothiazole | 0.037 g, 47% | N1C(=NC=C1)C=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC | C15H16N4O2S
